US07842688B2
d) Methyl 3-trityl-3H-benzimidazole-4-carboxylate
A suspension of 1.12 g of methyl 3H-benzimidazole-4-carboxylate in 25 ml of dichloromethane is admixed with 0.97 ml of triethylamine and a solution of 2.010 g of trityl chloride in 25 ml of dichloromethane. The reaction mixture is stirred at room temperature over 16 hours and subsequently poured onto a 100 ml of semisaturated aqueous sodium hydrogencarbonate solution. The phases are separated and the aqueous phase is extracted with 100 ml of dichloromethane. The combined organic phases are washed with 100 ml of water, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a yellow solid from the residue by flash chromatography (SiO2 60F). Rf (1:2 EtOAc-heptane)=0.25; Rt=4.31.

reactant | methyl 3H-benzimidazole-4-carboxylate | 1.12 g | N1=CNC2=C1C=CC=C2C(=O)OC | C9H8N2O2
reactant | triethylamine | 0.97 ml | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 2.010 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | sodium hydrogencarbonate | 100 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | Methyl 3-trityl-3H-benzimidazole-4-carboxylate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC2=C1C(=CC=C2)C(=O)OC | C28H22N2O2
